US05521147
A mixture of 37.3 g (0.193 mole) of 2,3-dihydro-2,2-dimethyl-7-nitrobenzofuran, 156.6 g (0.58 mole) of potassium persulfate, and 48.2 g (0.193 mole) of copper(II) sulfate pentahydrate in 500 mL of acetonitrile and 500 mL of water was prepared. This mixture was heated at reflux for one hour with vigorous stirring. The reaction mixture was cooled and then extracted three times with methylene chloride. The combined extracts were dried over anhydrous magnesium sulfate, filtered, and the solvent was evaporated from the filtrate under reduced pressure, leaving 37.4 g of 2,3-dihydro-2,2-dimethyl-7-nitrobenzofuran-3-one as a residue. The NMR and IR spectra of the same product from a previous run of this reaction were consistent with the proposed structure.

reactant | 2,3-dihydro-2,2-dimethyl-7-nitrobenzofuran | 0.193 mole, 37.3 g | CC1(OC2=C(C1)C=CC=C2[N+](=O)[O-])C | C10H11NO3
reactant | potassium persulfate | 0.58 mole, 156.6 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
solvent | water | 500 mL | O | H2O
catalyst | copper(II) sulfate pentahydrate | 0.193 mole, 48.2 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | 2,3-dihydro-2,2-dimethyl-7-nitrobenzofuran-3-one | 37.4 g | CC1(OC2=C(C1=O)C=CC=C2[N+](=O)[O-])C | C10H9NO4
